US06307047B1
2-(3,4-Difluorophenyl)-4-(3-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared as described in Example 62, starting with 4-(3,4-difluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 3,4-difluorobromobenzene in place of 1-bromo-4-fluorobenzene (yield: 185 mg, 46.5%). mp 182-185° C. 1H NMR (300 MHz, DMSO-d6) δ 3.23 (s, 3H), 6.98 (d, J=9 Hz, 1H), 7.18 (m, 2H), 7.32 (m, 1H), 7.52 (d, J=9 Hz, 2 H), 7.6 (m, 2H), 7.85 (m, 1H), 7.9 (d, J=9 Hz, 2H), 8.3 (s, 1H). MS (DCI/NH3) m/z 457 (M+H)+, 474 (M+NH4)+.

reactant | 4-(3,4-difluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)C=1C(NN=CC1C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H12F2N2O3S
reactant | 3,4-difluorobromobenzene | FC=1C=C(C=CC1F)Br | C6H3BrF2
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(3-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)C1=CC(=CC=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C23H15F3N2O3S
